US05969171
N,N'-bis-(2-hydroxybenzoyl)-1,2-diaminoethane-manganese complex
1.86 g of manganese(II) acetate (tetrahydrate) were added in portions to a solution of 21.6 g of N,N'-bis-(2-hydroxybenzoyl)-1,2-diaminoethane, [prepared in accordance with: Y. A. Ibrahim, A. H. M. Elwahy, Synthesis 503-508 (1993)] in 30 ml of ethanol and the mixture was heated at reflux for three hours. After the reaction solution had been cooled, the precipitate was separated off, washed with ethanol and dried; this gave 2.88 g of N,N'-bis-(2-hydroxybenzoyl)-1,2-diaminoethane-manganese complex.

reactant | manganese(II) acetate | 1.86 g | C(C)(=O)[O-].[Mn+2].C(C)(=O)[O-]
reactant | N,N'-bis-(2-hydroxybenzoyl)-1,2-diaminoethane | 21.6 g | OC1=C(C(=O)NCCNC(C2=C(C=CC=C2)O)=O)C=CC=C1 | C16H16N2O4
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | N,N'-bis-(2-hydroxybenzoyl)-1,2-diaminoethane manganese | OC1=C(C(=O)NCCNC(C2=C(C=CC=C2)O)=O)C=CC=C1.[Mn] | InChI=1S/C16H16N2O4.Mn/c19-13-7-3-1-5-11(13)15(21)17-9-10-18-16(22)12-6-2-4-8-14(12)20;/h1-8,19-20H,9-10H2,(H,17,21)(H,18,22);
